US04954498
8,8-Dimethyl-2-(4-methoxyphenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one
4.7 g. (20 mmole) of the above compound were mixed in 50 ml. pyridine, while cooling with ice, with 3.7 g. (22 mmole) 4-methoxybenzoyl chloride. After 2 hours at 25° C., the reaction mixture was poured on to ice, acidified with 2N hydrochloric acid, extracted with methylene chloride, dried and evaporated to give 6.9 g. (93% of theory) 4,4-dimethyl-6-(4-methoxybenzoylamino)-7-nitro-1,2,3,4-tetrahydroquinolin-2one; 1,2,3,4-tetrahydroquinolin-2-one; m.p. 288-290° C.

reactant | 4-methoxybenzoyl chloride | 22 mmole | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | 4,4-dimethyl-6-(4-methoxybenzoylamino)-7-nitro-1,2,3,4-tetrahydroquinolin-2one | CC1(CC(NC2=CC(=C(C=C12)NC(C1=CC=C(C=C1)OC)=O)[N+](=O)[O-])=O)C | C19H19N3O5
reactant | 1,2,3,4-tetrahydroquinolin-2-one | N1C(CCC2=CC=CC=C12)=O | C9H9NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 8,8-Dimethyl-2-(4-methoxyphenyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]quinolin-6-one | CC1(CC(NC=2C=C3C(=CC12)NC(=N3)C3=CC=C(C=C3)OC)=O)C | C19H19N3O2
